US04939138
To a suspension of 7.5 g (0.056 mole) of aluminum chloride in 100 ml of methylene dichloride (MDC) was added, rapidly with stirring, a solution of 6.2 ml (0.038 mole) of 4-methoxybenzoyl chloride. When addition was complete the mixture was stirred for one hour at room temperature and the resulting solution then added dropwise over a ten minute period with stirring to a solution of 8.5 g (0.031 mole) of 3-(4-morpholinylmethyl)-5-methyl-2,3-dihydropyrrolo-[1,2,3-de]-1,4-benzoxazine in 100 ml of MDC. The resulting mixture was then heated under reflux for thirty minutes, cooled and poured into 300 ml of ice water with stirring. The organic solvent was removed in vacuo, and the residual aqueous medium was diluted with ethyl acetate and neutralized by the addition of saturated aqueous sodium bicarbonate. The organic layer was separated, dried over magnesium sulfate, filtered through silica, taken to dryness in vacuo and chromatographed There was thus obtained about 7 g of crude product which was recrystallized from ethyl acetate/hexane to give 6.0 g of 3-(4-morpholinylmethyl)-5-methyl-6-(4-methoxybenzoyl)-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine, m.p. 182°-189° C.

reactant | aluminum chloride | 0.056 mole, 7.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-methoxybenzoyl chloride | 0.038 mole, 6.2 ml | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 3-(4-morpholinylmethyl)-5-methyl-2,3-dihydropyrrolo-[1,2,3-de]-1,4-benzoxazine | 0.031 mole, 8.5 g | N1(CCOCC1)CC1COC=2C=3N1C(=CC3C=CC2)C | C16H20N2O2
solvent | methylene dichloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MDC | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-morpholinylmethyl)-5-methyl-6-(4-methoxybenzoyl)-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine | 6.0 g | N1(CCOCC1)CC1COC=2C=3N1C(=C(C3C=CC2)C(C2=CC=C(C=C2)OC)=O)C | C24H26N2O4
